US07947692B2
A magnetically stirred mixture of 4-hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (7-methoxy-5-methylsulfanyl-thiazolo[5,4-d]pyrimidin-2-yl)-amide (375 mg, 0.75 mmol) in methanol (20 mL) was cooled in an ice water bath and treated with sodium tungstate dihyrate (135 mg, 0.04 mmol) followed by hydrogen peroxide (30% solution, 10 mL) The reaction mixture was warmed to room temperature and stirred for 2 h. The reaction was then poured into water and extracted with methylene chloride. The organics were washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo to afford 4-hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (5-methanesulfonyl-7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide (251 mg, 63%) as a red solid. LRMS for C20H20F3N5O5S2 (M+H)+ at m/z=499. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 4-hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (7-methoxy-5-methylsulfanyl-thiazolo[5,4-d]pyrimidin-2-yl)-amide | 0.75 mmol, 375 mg | COC=1C2=C(N=C(N1)SC)SC(=N2)NC(=O)N2CCC(CC2)(C2=CC(=CC=C2)C(F)(F)F)O | C20H20F3N5O3S2
reactant | hydrogen peroxide | 10 mL | OO | H2O2
reactant | water | O | H2O
reactant | methanol | 20 mL | CO | CH4O
catalyst | sodium tungstate | 0.04 mmol, 135 mg | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 4-hydroxy-4-[3-(trifluoromethy)phenyl]piperidine-1-carboxylic acid (5-methanesulfonyl-7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide | 251 mg, 63% | CS(=O)(=O)C=1N=C(C2=C(N1)SC(=N2)NC(=O)N2CCC(CC2)(C2=CC(=CC=C2)C(F)(F)F)O)OC | C20H20F3N5O5S2
